US08748624B2
STEP D: methyl 3-(5-(5-chloro-2-(((4′-fluoro-3′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
Methyl 3-(5-(5-chloro-2-(((4-iodophenyl)amino)methyl)phenyl)picolinamido)propanoate (83 mg, 0.15 mmol), (4-fluoro-3-methylphenyl)boronic acid (31 mg, 0.20 mmol), Pd(dppf)Cl2 (12 mg, 0.02 mmol), and K2CO3 (55 mg, 0.40 mmol) were dissolved in 1,4-dioxane (1.5 mL) and water (0.5 mL) and heated to 90° C. After 1.5 h the resulting mixture was diluted with DCM, dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | Methyl 3-(5-(5-chloro-2-(((4-iodophenyl)amino)methyl)phenyl)picolinamido)propanoate | 0.15 mmol, 83 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC)CNC1=CC=C(C=C1)I | C23H21ClIN3O3
reactant | (4-fluoro-3-methylphenyl)boronic acid | 0.20 mmol, 31 mg | FC1=C(C=C(C=C1)B(O)O)C | C7H8BFO2
reactant | K2CO3 | 0.40 mmol, 55 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.5 mL | O | H2O
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | 0.02 mmol, 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 3-(5-(5-chloro-2-(((4′-fluoro-3′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC)CNC1=CC=C(C=C1)C1=CC(=C(C=C1)F)C | C30H27ClFN3O3
